US04758369
Preparation of 11-mercaptoundecanoic acid (a precursor)
A mixture of 200 g of 11-bromoundecanoic acid, 60 g of thiourea and 600 mL of absolute ethanol was stirred and heated at reflux for two hours. After heating was stopped a solution of 80 g of sodium hydroxide in 250 mL of water was then added dropwise. The mixture was held overnight and then heated at reflux for three hours. After cooling to room temperature a solid precipitated from solution. The reaction mixture was poured into a mixture of ice and 200 g of concentrated hydrochloric acid. The solids were filtered from solution then slurried with ice water, isolated by filtration and washed twice. The off-white solid was stored in a crystallizing dish for one week, then dried under vacuum (~1 mm of Hg) at about 45° C. The product was distilled under vacuum (~1 mm of Hg at ~160° C.). NMR analysis indicated the desired product was obtained. The distilled product weighed 74.7 g representing 45.46% yield based upon the weight of starting 11-bromoundecanoic acid.

reactant | 11-bromoundecanoic acid | 200 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | thiourea | 60 g | NC(=S)N | CH4N2S
reactant | ethanol | 600 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
product | 11-mercaptoundecanoic acid | 45.46% yield | SCCCCCCCCCCC(=O)O | C11H22O2S
